US07851626B2
Sodium (1.815 g, 78.9 mmol, Aldrich) was cut into small pieces and added to ethanol (100 mL). After all the pieces were dissolved, the clear solution was added to a solution of ethyl 4-bromo-2-fluoro-benzoate (13 g, 52.6 mmol) in ethanol (20 mL) cooled to 0° C. The ice bath was then removed and the mixture was stirred at room temperature for 12 h. The reaction mixture was concentrated in vacuo, and the residue was taken in water and 20% ethyl acetate-hexane. The organic layer was washed with saturated solution of sodium bicarbonate, brine, and dried over anhydrous sodium sulfate. The solids were filtered off, and the filtrate was concentrated in vacuo. Purification of the crude residue by flash chromatography (120 g of silica gel, eluting with 10-15% ethyl acetate in hexane) gave 4-bromo-2-ethoxy-benzoic acid ethyl ester as white solids (11.020 g, 77%).

reactant | Sodium | 78.9 mmol, 1.815 g | [Na] | Na
reactant | ethyl 4-bromo-2-fluoro-benzoate | 52.6 mmol, 13 g | BrC1=CC(=C(C(=O)OCC)C=C1)F | C9H8BrFO2
reactant | ethanol | 20 mL | C(C)O | C2H6O
reactant | ethanol | 100 mL | C(C)O | C2H6O
product | 4-bromo-2-ethoxy-benzoic acid ethyl ester | 11.020 g, 77% | C(C)OC(C1=C(C=C(C=C1)Br)OCC)=O | C11H13BrO3
